US04933355
5-{1-[2-(3-m-Methoxyphenylureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid monohydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.75 g of ethyl 2-(3-m-methoxyphenylureido)thiazol-4-ylglyoxylate, 0.95 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia and 20 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-m-methoxyphenylureido)thiazol-4-ylglyoxylate | 1.75 g | COC=1C=C(C=CC1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C15H15N3O5S
reactant | rhodanine-3-acetic acid | 0.95 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-{1-[2-(3-m-Methoxyphenylureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid monohydrate | O.COC=1C=C(C=CC1)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O | InChI=1S/C20H18N4O7S3.H2O/c1-3-31-17(28)14(15-16(27)24(8-13(25)26)20(32)34-15)12-9-33-19(22-12)23-18(29)21-10-5-4-6-11(7-10)30-2;/h4-7,9H,3,8H2,1-2H3,(H,25,26)(H2,21,22,23,29);1H2
